US04099000
p-Nitrobenzyl 5-hydroxy-5-acetoxymethyl-5,6-dihydro-4H-1,3-thiazine-4-carboxylate (1.27 g., 3.45 mMol) and Et3N (0.58 ml., 4.16 mMol) in anhydrous CH2Cl2 (50 ml.) is stirred under a N2 atomsphere at room temperature while a solution of N3CH2COCl (0.36 ml., 4.13 mMol) in anhydrous CH2Cl2 (20 ml.) is added dropwise over 90 min. After stirring 30 more min., the solution is washed twice with H2O and brine, dried with MgSO4, filtered, and evaporated in vacuo. The residual oil us chromatographed on a column of Baker silica gel. Elution with 3:1 PhH-EtOAc yields p-nitrobenzyl 7α-azido-3-hydroxy-3-acetoxymethyl-cepham-4-carboxylate.

reactant | p-Nitrobenzyl 5-hydroxy-5-acetoxymethyl-5,6-dihydro-4H-1,3-thiazine-4-carboxylate | 3.45 mMol, 1.27 g | OC1(C(N=CSC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])COC(C)=O | C15H16N2O7S
reactant | Et3N | 4.16 mMol, 0.58 ml | CCN(CC)CC | C6H15N
reactant | N3CH2COCl | 4.13 mMol, 0.36 ml | N(=[N+]=[N-])CC(=O)Cl | C2H2ClN3O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | p-nitrobenzyl 7α-azido-3-hydroxy-3-acetoxymethyl-cepham-4-carboxylate | N(=[N+]=[N-])[C@@H]1[C@@H]2N(C(C(CS2)(COC(C)=O)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H17N5O8S
